US05338719
Diethyl 2-[5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenoxy]malonate (IV=1)
To a suspension of 60% sodium hydride (0.4 g) in DMF (5 ml) was dropwise added, under ice-cooling, a DMF (5 ml) solution of 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenol (3.3 g), and the mixture was stirred for 10 minutes. To the solution was added diethyl bromomalonate (2.1 ml), and the mixture stirred at 70° C. for 30 minutes. Then, to the reaction mixture was added water (10 ml), and the mixture extracted twice with ethyl acetate (20 ml). The extract was washed with water and then with saturated aqueous sodium chloride, and dried over magnesium sulfate. The solvent was evaporated under a reduced pressure, and the residue was purified by silica gel chromatography (eluant: n-hexane/ethyl acetate=5/1) to give 3.0 g of the title compound (colorless oil). Also, 0.7 g of the phenol derivative of the starting material was recovered.

reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenol | 3.3 g | ClC1=C(OC=2C=CC(=C(C2)O)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H7ClF3NO4
reactant | diethyl bromomalonate | 2.1 ml | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | water | 10 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Diethyl 2-[5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenoxy]malonate | 3.0 g | ClC1=C(OC=2C=CC(=C(OC(C(=O)OCC)C(=O)OCC)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C20H17ClF3NO8
